US04634548
35 g of a hydrocarbon mixture containing (according to GC) 43% of 1,1,4,4-tetramethyl-1,2,3,4,5,8-hexahydronaphthalene (IIh) are dissolved in 140 ml of 1,2-dichloroethane and treated in accordance with method C described in Example 1 with 0.304 g of molybdenum hexacarbonyl, 0.1148 g of disodium hydrogen phosphate and 65 ml of 2.85 molar tert.butyl hydroperoxide solution. After working-up, 30 g of crude product are obtained. 10 g thereof are chromatographed on 600 g of silica gel Merck (0.04-0.063 mm) (elution agent: 2-3% ether/hexane). 1.9 g of 6,7-epoxy-1,1,4,4-tetramethyl-1,2,3,4,5,6,7,8-octahydro-naphthalene are obtained.

reactant | 1,1,4,4-tetramethyl-1,2,3,4,5,8-hexahydronaphthalene | CC1(CCC(C=2CC=CCC12)(C)C)C | C14H22
reactant | disodium hydrogen phosphate | 0.1148 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | tert.butyl hydroperoxide | 2.85 molar, 65 ml | C(C)(C)(C)OO | C4H10O2
solvent | 1,2-dichloroethane | 140 ml | ClCCCl | C2H4Cl2
catalyst | molybdenum hexacarbonyl | 0.304 g | [C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Mo]
product | 6,7-epoxy-1,1,4,4-tetramethyl-1,2,3,4,5,6,7,8-octahydro-naphthalene | 1.9 g | O1C2CC=3C(CCC(C3CC21)(C)C)(C)C | C14H22O
